US07741322B2
4-Methoxy-N-[1-({[2-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl]amino}carbonyl)cyclopropyl]benzamide
To a solution of 1-amino-N-[2-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl]cyclopropanecarboxamide hydrochloride (30 mg, 0.117 mmol) in 3 mL of dimethylformamide was added triethylamine (0.049 mL, 0.35 mmol), followed by 4-(methoxy)benzoyl chloride (24 mg, 0.14 mmol). After 3 days, the mixture was concentrated in vacuo. Purification by preparative reversed phase HPLC provided the titled compound. ESI+MS: 526.0 [M+H]+.

reactant | 1-amino-N-[2-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl]cyclopropanecarboxamide hydrochloride | 0.117 mmol, 30 mg | Cl.NC1(CC1)C(=O)NCCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C
reactant | triethylamine | 0.35 mmol, 0.049 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(methoxy)benzoyl chloride | 0.14 mmol, 24 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-Methoxy-N-[1-({[2-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl]amino}carbonyl)cyclopropyl]benzamide | COC1=CC=C(C(=O)NC2(CC2)C(=O)NCCC=2N(C(C3=CC=C(C=C3C2C2=CC=CC=C2)OC)=O)C)C=C1 | C31H31N3O5
